US07507740B2
(ii) Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine (90 mg) in 1-methyl-2-pyrrolidone (0.7 mL), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (151 mg) was added, and the mixture was heated to 140° C. and stirred for 7 hrs. The reaction mixture was allowed to cool to room temperature. The reaction mixture was diluted with 5% aqueous sodium hydrogen carbonate solution (20 mL) and extracted with ethyl acetate (25 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=10/0→8/2). The object fraction was concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether, collected by filtration and dried under reduced pressure to give the title compound (90 mg) as pale-yellow needle crystals.

reactant | 4-chloro-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 90 mg | ClC=1C2=C(N=CN1)C=CN2CCOCC | C10H12ClN3O
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 151 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 0.7 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(2-ethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 90 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CCOCC | C23H22ClFN4O2
